US07825128B2
18) N-{[3-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-propyl-carbamoyl]-methyl}-4-methyl-benzamide
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodopyrimidine, N-[(3-amino-propylcarbamoyl)-methyl]-4-methyl-benzamide and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | N-[(3-amino-propylcarbamoyl)-methyl]-4-methyl-benzamide | NCCCNC(=O)CNC(C1=CC=C(C=C1)C)=O | C13H19N3O2
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | N-{[3-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-propyl-carbamoyl]-methyl}-4-methyl-benzamide | ClC1=NC=C(C(=N1)NCCCNC(=O)CNC(C1=CC=C(C=C1)C)=O)C=1SC=CC1 | C21H22ClN5O2S
